US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with N-(3-formylphenyl)methanesulfonamide was carried out according to General Synthetic Method 7. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 30 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give N-[3-[[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]methyl]phenyl]methanesulfonamide.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | N-(3-formylphenyl)methanesulfonamide | C(=O)C=1C=C(C=CC1)NS(=O)(=O)C | C8H9NO3S
product | N-[3-[[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]methyl]phenyl]methanesulfonamide | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)CC=2C=C(C=CC2)NS(=O)(=O)C)(F)F | C18H20F3N7O2S
